US08610345B2
A mixed solution of 0.88 g of 1-(3,5-dichlorophenyl)-6-(4-methylphenyl)pyrene, 0.35 g of 2-naphthylboronic acid, 2.9 g of cesium carbonate, 58 mg of (tris-t-butylphosphine)tetrafluoroborate, 0.12 g of bis(dibenzylideneacetone)palladium(0) and 20 ml of 1,4-dioxane was heated and stirred under a nitrogen gas stream at 90° C. for 4 hours. The solution was cooled to room temperature and 50 ml of water was poured into the solution, followed by extraction with 100 ml of dichloromethane. The organic layer was washed twice with 20 ml of water, dried over magnesium sulfate and then evaporated. The concentrate was purified by silica gel column chromatography and then vacuum-dried to obtain 0.40 g of 1-{3-chloro-5-(2-naphthyl)phenyl}-6-(4-methylphenyl)pyrene.

reactant | 1-(3,5-dichlorophenyl)-6-(4-methylphenyl)pyrene | 0.88 g | ClC=1C=C(C=C(C1)Cl)C1=CC=C2C=CC3=C(C=CC4=CC=C1C2=C34)C3=CC=C(C=C3)C | C29H18Cl2
reactant | 2-naphthylboronic acid | 0.35 g | C1=C(C=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | cesium carbonate | 2.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
catalyst | bis(dibenzylideneacetone)palladium(0) | 0.12 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | water | 50 ml | O | H2O
product | 1-{3-chloro-5-(2-naphthyl)phenyl}-6-(4-methylphenyl)pyrene | 0.40 g | ClC=1C=C(C=C(C1)C1=CC2=CC=CC=C2C=C1)C1=CC=C2C=CC3=C(C=CC4=CC=C1C2=C34)C3=CC=C(C=C3)C | C39H25Cl
